### PR TITLE
Add Erdős Problem 1134 (density of the Klarner–Erdős set), link the formal disproof

### LINKED ISSUE #6146: Erdős Problem 1134
### What is the Erdős problem?

https://www.erdosproblems.com/1134

Let $A\subseteq \mathbb{N}$ be the smallest set which contains $1$ and is closed under the operations $x\mapsto 2x+1$, $x\mapsto 3x+1$ and $x\mapsto 6x+1$. Does $A$ have positive lower density?

Status: disproved (Lean). Crampin–Hilton showed $|A \cap [1,X]| \ll X^{\tau + o(1)}$ with $\tau \approx 0.9006$; a formal proof of a sublinear bound (hence lower density zero) exists in plby/lean-proofs (`Erdos1134.not_erdos_1134`, Codex / GPT-5.6 Sol). The repository's `Set.lowerDensity` can be used directly.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6146.

### What changed
Adds `FormalConjectures/ErdosProblems/1134.lean`:
- `A : Set ℕ`, the smallest set containing `1` and closed under `x ↦ 2x+1`, `3x+1`, `6x+1` (as `⋂₀` of all such sets).
- `erdos_1134` (`research solved`, `answer(False)`): `0 < A.lowerDensity` (house `Set.lowerDensity`). Disproved by Crampin–Hilton. Linked to plby/lean-proofs `Erdos1134.not_erdos_1134` (Axiom Math / AxiomProver, MIT).
- `erdos_1134.variants.sublinear`: `|A ∩ [0, X]| ≤ C X^(19/20)`, linked to `Erdos1134.erdos_set_sublinear_bound`.
- `erdos_1134.variants.klarner` (`research open`): Klarner's variant with `0` and `x ↦ 2x`, `3x+2`, `6x+3`.

### How checked
- Rebuilt plby's closure (4 files, Mathlib-only) against this repo's Mathlib: `#print axioms Erdos1134.not_erdos_1134` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the two linked statements on top of a renamed copy, same axioms. plby's set is an inductive predicate, so `A ⊆` it; plby's lower density is `liminf |S ∩ [0,N]| / N` while the house one is `liminf |S ∩ [0,b)| / |[0,b)|`, so the sublinear bound is transported through a squeeze argument to `A.lowerDensity = 0`:

<details>
<summary>Bridge</summary>

```lean
open Filter Topology

namespace Bridge1134

lemma A_subset : Erdos1134.A ⊆ Set.ofPred Erdos1134Plby.ErdosSetA := by
  apply Set.sInter_subset_of_mem
  refine ⟨Erdos1134Plby.ErdosSetA.base, fun x hx => ?_⟩
  exact ⟨Erdos1134Plby.ErdosSetA.double_plus_one x hx,
    Erdos1134Plby.ErdosSetA.triple_plus_one x hx, Erdos1134Plby.ErdosSetA.sextuple_plus_one x hx⟩

theorem sublinear_bridge : type_of% Erdos1134.erdos_1134.variants.sublinear := by
  obtain ⟨C, hC, hbound⟩ := Erdos1134Plby.erdos_set_sublinear_bound
  refine ⟨C, hC, fun X => le_trans ?_ (hbound X)⟩
  exact_mod_cast Set.ncard_le_ncard (Set.inter_subset_inter_left _ A_subset) (Set.toFinite _)

lemma lowerDensity_eq_zero : Erdos1134.A.lowerDensity = 0 := by
  obtain ⟨C, hC, hbound⟩ := sublinear_bridge
  apply Tendsto.liminf_eq
  have hden : ∀ b : ℕ, ((Set.univ ∩ Set.Iio b : Set ℕ).ncard : ℝ) = b := by
    intro b
    rw [Set.univ_inter, ← Finset.coe_Iio, Set.ncard_coe_finset, Nat.card_Iio]
  have hnum : ∀ b : ℕ, (((Erdos1134.A ∩ Set.univ) ∩ Set.Iio b).ncard : ℝ) ≤
      C * (b : ℝ) ^ (19 / 20 : ℝ) := by
    intro b
    refine le_trans ?_ (hbound b)
    exact_mod_cast Set.ncard_le_ncard (by
      rw [Set.inter_univ]
      exact Set.inter_subset_inter_right _ Set.Iio_subset_Iic_self) (Set.toFinite _)
  apply squeeze_zero (g := fun b : ℕ => C * (b : ℝ) ^ (-(1 / 20 : ℝ)))
  · intro b
    exact div_nonneg (Nat.cast_nonneg _) (Nat.cast_nonneg _)
  · intro b
    simp only [Set.partialDensity]
    rw [hden]
    rcases Nat.eq_zero_or_pos b with rfl | hb
    · simp only [Nat.cast_zero, div_zero]
      exact mul_nonneg hC.le (Real.rpow_nonneg le_rfl _)
    · have hb' : (0 : ℝ) < b := by exact_mod_cast hb
      rw [div_le_iff₀ hb', show (-(1 / 20 : ℝ)) = 19 / 20 - 1 by norm_num,
        Real.rpow_sub_one hb'.ne']
      calc _ ≤ C * (b : ℝ) ^ (19 / 20 : ℝ) := hnum b
        _ = C * ((b : ℝ) ^ (19 / 20 : ℝ) / b) * b := by field_simp
  · rw [show (0 : ℝ) = C * 0 by ring]
    exact ((tendsto_rpow_neg_atTop (by norm_num : (0 : ℝ) < 1 / 20)).comp
      tendsto_natCast_atTop_atTop).const_mul C

theorem erdos_1134_bridge : type_of% Erdos1134.erdos_1134 := by
  show False ↔ _
  simp only [false_iff]
  rw [lowerDensity_eq_zero]
  exact lt_irrefl 0

end Bridge1134
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1134»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1134.lean [hunk 1]
```diff
@@ -0,0 +1,93 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1134.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
